US09079866B2
Step B: N-(tert-Butyl)-3′-fluoro-4′-(5-(methylsulfonamido)pyrazin-2-yl)-[1,1′-biphenyl]-2-sulfonamide
To a 20 mL vial containing N-(tert-butyl)-3′-fluoro-4′-(5-(N-(methylsulfonyl)methylsulfonamido)pyrazin-2-yl)-[1,1′-biphenyl]-2-sulfonamide (38 mg, 0.068 mmol) were added a stir-bar and DMSO (1 mL). The mixture was sonicated until homogeneous, and then treated with NaOH (0.23 mL, 0.23 mmol, 1.0 N). The mixture was stirred at rt for 18.7 h before passing it through a syringe filter and subjecting it to HPLC purification thus yielding the title compound (28 mg, 86%). MS (ESI): mass calcd. for C21H23FN4O4S2, 478.11; m/z found, 479.1 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 11.29 (s, 1H), 8.82-8.72 (m, 1H), 8.46 (d, J=1.5, 1H), 8.07 (dd, J=7.9, 1.4, 1H), 7.98-7.91 (m, 1H), 7.71-7.65 (m, 1H), 7.65-7.58 (m, 1H), 7.43-7.32 (m, 3H), 7.05 (s, 1H), 3.41 (s, 3H), 1.03 (s, 9H).

reactant | N-(tert-butyl)-3′-fluoro-4′-(5-(N-(methylsulfonyl)methylsulfonamido)pyrazin-2-yl)-[1,1′-biphenyl]-2-sulfonamide | 0.068 mmol, 38 mg | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C1=NC=C(N=C1)N(S(=O)(=O)C)S(=O)(=O)C)F | C22H25FN4O6S3
reactant | NaOH | 0.23 mmol, 1.0 N, 0.23 mL | [OH-].[Na+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-(tert-Butyl)-3′-fluoro-4′-(5-(methylsulfonamido)pyrazin-2-yl)-[1,1′-biphenyl]-2-sulfonamide | 28 mg, 86% | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C1=NC=C(N=C1)NS(=O)(=O)C)F | C21H23FN4O4S2
